US04012524
Step D: (1-Hydroxy-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid (α isomer)
A stirred mixture of 2-cyclopentyl-2-methyl-6,7-dichloroindan-1,5-diol (α isomer) (1.9 g., 0.0063 mole), potassium carbonate (1.3 g., 0.0095 mole) and ethylbromoacetate (1.5 g. 0.0095 mole) in dimethylformamide (20 ml.) is warmed at 55°-60° C. under nitrogen for 2 hours, then treated with water (20 ml.) and 10N sodium hydroxide (1.9 ml.) and heated on a steam bath for one-half hour. The reaction mixture is poured into ice water (300 ml.) and while ice cold, 1N HCl is added dropwise with stirring to give 1.36 g. of (1-hydroxy-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid (α isomer) which melts at 129°-131° C. after crystallization from benzene : hexane, 1:1.

reactant | 2-cyclopentyl-2-methyl-6,7-dichloroindan-1,5-diol | 0.0063 mole, 1.9 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)O)C | C15H18Cl2O2
reactant | potassium carbonate | 0.0095 mole, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylbromoacetate | 0.0095 mole, 1.5 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | sodium hydroxide | 10N, 1.9 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | (1-Hydroxy-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | OC1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1CCCC1 | C17H20Cl2O4
